US07939524B2
b) 3-Nitro-pyridine-2-sulfonyl Chloride
2-Benzylsulfanyl-3-nitro-pyridine (6 g, 24.39 mmol) was dissolved in dichloromethane (84 mL). Acetic acid (12 mL) and water (24 mL) were added. The mixture was chilled to 0° C. With vigorous stirring, 1,3-dichloro-5,5-dimethyl-imidazolidine-2,4-dione (14.4 g, 73.17 mmol) was added portionwise as a suspension in dichloromethane (48 mL). The mixture was allowed to slowly warm to 25° C. and continued to stir for 16 h. The mixture was poured into 5% aqueous sodium metabisulfite solution (100 mL) and shaken well. Dichloromethane (200 mL) and 20% aqueous dibasic potassium phosphate solution (100 mL) were added and the mixture was shaken well. The layers were separated. The crude desired product, 3-nitro-pyridine-2-sulfonyl chloride, dissolved in the organic layer was used directly in the next step without further isolation or characterization.

reactant | 2-Benzylsulfanyl-3-nitro-pyridine | 24.39 mmol, 6 g | C(C1=CC=CC=C1)SC1=NC=CC=C1[N+](=O)[O-] | C12H10N2O2S
reactant | 1,3-dichloro-5,5-dimethyl-imidazolidine-2,4-dione | 73.17 mmol, 14.4 g | ClN1C(N(C(C1(C)C)=O)Cl)=O | C5H6Cl2N2O2
reactant | sodium metabisulfite | 100 mL | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | potassium phosphate | 100 mL | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dichloromethane | 84 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 48 mL | ClCCl | CH2Cl2
solvent | Dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | water | 24 mL | O | H2O
solvent | Acetic acid | 12 mL | C(C)(=O)O | C2H4O2
product | 3-Nitro-pyridine-2-sulfonyl Chloride | [N+](=O)([O-])C=1C(=NC=CC1)S(=O)(=O)Cl | C5H3ClN2O4S
